US08048897B2
(2) Synthesis of (5-Chloro-3-methoxythiophen-2-yl)-(4-cyclopropylphenyl)methanone
In a nitrogen stream, an n-butyllithium n-hexane solution (1.6 M, 2.43 mL, 3.88 mmol) was added dropwise to a solution of 2-bromo-5-chloro-3-methoxythiophene (882 mg, 3.88 mmol) as synthesized by the method described in a document [L. Org. Chem., 58, 4629-4633 (1993)] in anhydrous THF (15 mL) at −78° C. This mixture was stirred at −78° C. for ten minutes, and a solution of 4-cyclopropyl-N-methoxy-N-methylbenzamide (875 mg, 4.26 mmol) in THF (3 mL) was added dropwise thereto. The reaction mixture was stirred at −78° C. for 30 minutes. A saturated ammonium chloride aqueous solution was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=n-hexane:ethyl acetate (4:1)] to obtain the title compound (714 mg, 63%).

reactant | n-butyllithium n-hexane | 3.88 mmol, 1.6 M, 2.43 mL | CCCCCC.C(CCC)[Li]
reactant | 2-bromo-5-chloro-3-methoxythiophene | 3.88 mmol, 882 mg | BrC=1SC(=CC1OC)Cl | C5H4BrClOS
reactant | 4-cyclopropyl-N-methoxy-N-methylbenzamide | 4.26 mmol, 875 mg | C1(CC1)C1=CC=C(C(=O)N(C)OC)C=C1 | C12H15NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (5-Chloro-3-methoxythiophen-2-yl)-(4-cyclopropylphenyl)methanone | 714 mg, 63% | ClC1=CC(=C(S1)C(=O)C1=CC=C(C=C1)C1CC1)OC | C15H13ClO2S
